US03974156
A solution of 1-allyloxy-3-n-propylamino-2-propanol (95.2 g.) in a mixture of dry methylene chloride (275ml.) and triethylamine (80 ml.) is cooled to between -5° and 0°C. and a solution of chloroacetylchloride (42 ml.) in methylene chloride (60 ml.) is added dropwise with stirring during 2 hours. The mixture is allowed to warm to ambient temperature (18°-20°C.) and stirred at this temperature for 18 hours. The solution is washed with 2N hydrochloric acid (2 × 100 ml.) and then with water (100 ml.) and dried (MgSO4). Removal of the solvent under reduced pressure gives N-(3-allyloxy-2-hydroxypropyl)-N-n-propyl-α-cloroacetamide (119.7 g.) as an oil which is used without further purification.

reactant | 1-allyloxy-3-n-propylamino-2-propanol | 95.2 g | C(C=C)OCC(CNCCC)O | C9H19NO2
reactant | triethylamine | 80 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetylchloride | 42 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 275ml | C(Cl)Cl | CH2Cl2
product | N-(3-allyloxy-2-hydroxypropyl)-N-n-propyl-α-cloroacetamide | 119.7 g | C(C=C)OCC(CN(C(CCl)=O)CCC)O | C11H20ClNO3
